US05008266
(g) 2-(o-Dimethylaminobenzylthio)-3-phenyl-4(3H)-quinazolinone
The title compound was prepared in a yield of 26.9%, using 2-mercapto-3-phenyl-4(3H)-quinazolinone in place of 3- isobutyl-2-mercapto-4(3H)-quinazolinone and 2-chloromethyl-N,N-dimethylaniline in place of 2-choromethylpyridine hydrochloride.

reactant | 2-mercapto-3-phenyl-4(3H)-quinazolinone | SC1=NC2=CC=CC=C2C(N1C1=CC=CC=C1)=O | C14H10N2OS
reactant | 2-chloromethyl-N,N-dimethylaniline | ClCC1=C(N(C)C)C=CC=C1 | C9H12ClN
product | 2-(o-Dimethylaminobenzylthio)-3-phenyl-4(3H)-quinazolinone | yield of 26.9% | CN(C1=C(CSC2=NC3=CC=CC=C3C(N2C2=CC=CC=C2)=O)C=CC=C1)C | C23H21N3OS
